US07786132B2
(i) 2-Phenylthiothiazole
A solution of sodium thiophenolate (0.61 g, 4.62 mmol) and 2-bromothiazole (0.38 mL, 4.2 mmol) in 20 mL of toluene was treated with 0.19 g (0.21 mmol) of Pd2dba3 and 0.12 g (0.21 mmol) of Xantphos and heated at reflux for 10 min. The crude solution was concentrated onto 5 g of silica gel and then purified by flash chromatography to give the title compound. MS (M+H)+ 194.

reactant | sodium thiophenolate | 4.62 mmol, 0.61 g | C1(=CC=CC=C1)[S-].[Na+]
reactant | 2-bromothiazole | 4.2 mmol, 0.38 mL | BrC=1SC=CN1 | C3H2BrNS
reactant | Xantphos | 0.21 mmol, 0.12 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2dba3 | 0.21 mmol, 0.19 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-Phenylthiothiazole | C1(=CC=CC=C1)SC=1SC=CN1 | C9H7NS2
